* ADG419 SPICE Macro-model
* Generic Desc: LC2MOS Precision Mini-DIP Analog Switch
* Developed by: mlacida / ADGT
* Revision History: Rev. C 8/2009 (10/2019)
* Copyright 2019 by Analog Devices, Inc.
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement. Use of this model
* indicates your acceptance of the terms and provisions in the License Statement.
*
* Begin Notes:
* The model will work on Vdd/Vss from 10.8V to 13.2V single supply and +/-13.5V to +/-16.5V dual supply.
* The model provides parametric specifications at +/-16.5V only and is not variable with Vdd and Vss changes. Please see datasheet page 3.
* The model is operational at RESET/VL level from 5V and +/-15V only.
*
* Not Modeled:
*
* Parameters modeled include:
*	On Resistance
*	Ton and Toff
*	Break-Before-Make
*	Off Isolation
*	Crosstalk
*	Supply Currents: Iss/Idd
*	Bandwidth
*	Charge Injection
* Connections
*      1  = D1
*      2  = S1
*      3  = GND
*      4  = VDD
*      5  = RESET/VL
*      6  = IN1
*      7  = VSS
*      8  = S2
*
.SUBCKT ADG419 1 2 3 4 5 6 7 8

.MODEL VON VSWITCH(Von=5 Voff=0.8 Ron=0.001 Roff=1000000000000)
.MODEL VEN VSWITCH(Von=5 Voff=0.8 Ron=380000 Roff=385000)
.MODEL VNE VSWITCH(Von=5 Voff=0.8 Ron=380000 Roff=385000)
.MODEL VRESET VSWITCH(Von=5 Voff=0.8 Ron=2700000 Roff=1000)
.MODEL DCLAMP D(IS=1E-15 IBV=1E-13)

* RESET/VL
S30 5 187 5 3 VRESET
C80 187 3 5.5e-011

* CROSSTALK
C12x 2 8 1e-012

* IDD/ISS
I1 4 3 0.0001e-006
I2 7 3 0.0001e-006

* Configuration: SPDT 2:1


* ESD PROTECTION DIODES DRAIN
D11 7 1 DCLAMP
D12 1 4 DCLAMP
C15 1 3 1e-012

* VOLTAGE SUPPLY REQUIREMENT
S116 11h 1 11k 3 VON
S117 11l 11k 11l 3 VON
Ech119 11l 3 VALUE = { IF((V(7)<=-0.5 & V(7)>=-16.5) & (V(4)<=16.5 & V(4)>=13.5), 5 , 0.01 ) }
S118 11m 11k 11m 3 VON
Ech1110 11m 3 VALUE = { IF((V(7)>=-0.5 & (V(4)<=13.2 & V(4)>=10.8)), 5 , 0.01 ) }


** SWITCH 1 D1 **
*
* ESD PROTECTION DIODES SOURCE
D113 7 2 DCLAMP
D114 2 4 DCLAMP
*
* OFF ISOLATION
C111 2 1 1e-012
*
* CHARGE INJECTION
C112 1 11n 1e-011
C113 2 11n 1e-011
*
* CD/CS OFF AND BANDWIDTH
C114 2 3 1e-012
*
* ON RESISTANCE
Ech111 111a 3 VALUE = { IF ((ABS(V(2)))>(ABS(V(11g))),V(2),V(1)) }
R111 111a 3 1G
R112 a11 11h 0.001
Ech112 111b 3 VALUE = { IF (V(111a)<-12,5,0) }
S111 11sa1 11sb1 111b 3 VON
Ech113 11sb1 3 VALUE = { IF (V(111a)<-12,0.111111111111111*(V(111a)--12)+23,0) }
Ech114 111c 3 VALUE = { IF ((V(111a)>=-12) & (V(111a)<=13.5),5,0) }
S112 11sa1 11sb2 111c 3 VON
Ech115 11sb2 3 VALUE = { IF ((V(111a)>=-12) & (V(111a)<=13.5),((23-15)/((-12-2.24127977713755)*(-12-2.24127977713755)))*(V(111a)-2.24127977713755)*(V(111a)-2.24127977713755) + 15,0) }
Ech116 111d 3 VALUE = { IF (V(111a)>13.5,5,0) }
S113 11sa1 11sb3 111d 3 VON
Ech117 11sb3 3 VALUE = { IF (V(111a)>13.5,-0.166666666666667*(V(111a)-13.5)+20,0) }
RIN113	11sa1 3	1G
EOUT11 a11 11e	POLY(2) (11sa1,3) (11f,3) 0 0 0 0 0.999/1000
FCOPY11	3 11f VSENSE11 1
RSENSOR11 11f 3	1K
VSENSE11 11e 11g	0
*
* TON/ TOFF/ BBM
S114 2 11g 11n 3 VON
S115 11i 11j 11i 3 VEN
Ech118 11i 3 VALUE = { IF(V(6)<2.4 & V(187)>=5, 5 , 0.8 ) }
eV11 11n 3 11j 3 1
C116 11j 3 1e-012
*

** SWITCH 2 D1 **
*
* ESD PROTECTION DIODES SOURCE
D213 7 8 DCLAMP
D214 8 4 DCLAMP
*
* OFF ISOLATION
C211 8 1 1e-012
*
* CHARGE INJECTION
C212 1 21n 1e-011
C213 8 21n 1e-011
*
* CD/CS OFF AND BANDWIDTH
C214 8 3 1e-012
*
* ON RESISTANCE
Ech211 211a 3 VALUE = { IF ((ABS(V(8)))>(ABS(V(21g))),V(8),V(1)) }
R211 211a 3 1G
R212 a21 11h 0.001
Ech212 211b 3 VALUE = { IF (V(211a)<-12,5,0) }
S211 21sa1 21sb1 211b 3 VON
Ech213 21sb1 3 VALUE = { IF (V(211a)<-12,0.111111111111111*(V(211a)--12)+23,0) }
Ech214 211c 3 VALUE = { IF ((V(211a)>=-12) & (V(211a)<=13.5),5,0) }
S212 21sa1 21sb2 211c 3 VON
Ech215 21sb2 3 VALUE = { IF ((V(211a)>=-12) & (V(211a)<=13.5),((23-15)/((-12-2.24127977713755)*(-12-2.24127977713755)))*(V(211a)-2.24127977713755)*(V(211a)-2.24127977713755) + 15,0) }
Ech216 211d 3 VALUE = { IF (V(211a)>13.5,5,0) }
S213 21sa1 21sb3 211d 3 VON
Ech217 21sb3 3 VALUE = { IF (V(211a)>13.5,-0.166666666666667*(V(211a)-13.5)+20,0) }
RIN213	21sa1 3	1G
EOUT21 a21 21e	POLY(2) (21sa1,3) (21f,3) 0 0 0 0 0.999/1000
FCOPY21	3 21f VSENSE21 1
RSENSOR21 21f 3	1K
VSENSE21 21e 21g	0
*
* TON/ TOFF/ BBM
S214 8 21g 21n 3 VON
S215 21i 21j 21i 3 VNE
Ech218 21i 3 VALUE = { IF(V(6)>=2.4 & V(187)>=5, 5 , 0.8 ) }
eV21 21n 3 21j 3 1
C216 21j 3 1e-012
*
.ENDS ADG419
